US07560467B2
(b) methyl 4-(4-fluorophenyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
A round bottom flask was charged with 4-fluorobenzaldehyde (2.00 mL, 18.6 mmol, 1 equiv), methyl 3,3-dimethoxypropionate (2.49 mL, 18.6 mmol, 1 equiv), urea (1.68 g, 28.0 mmol, 1.5 equiv), and copper (I) chloride (184 mg, 1.86 mmol, 0.1 equiv). THF (18.6 mL) was added, followed by acetic acid (0.110 mL, 1.86 mmol, 0.1 equiv) and BF3.OEt2 (3.07 mL, 24.2 mmol, 1.3 equiv). The slurry was heated to reflux for 24 hours, then stirred at room temperature for an additional 36 hours. The mixture was diluted with water and carefully neutralized with satd. NaHCO3. Ethyl acetate was added, and the biphasic solution was filtered through celite. The layers were separated, and the aqueous layer was washed with an additional portion of ethyl acetate. The combined organic extracts were washed with satd. NaCl, dried over Na2SO4, filtered and concentrated to a foamy solid. The residue was purified by flash chromatography (50% Ch2Cl2/ethyl acetate) to provide 535 mg of the product as an off-white powder (535 mg, 11%). NMR 1H NMR (400 MHz, DMSO-D6) δ ppm 9.25 (d, J=5 Hz, 1H), 7.72 (br s, 1H), 7.30-7.26 (m, 3H), 7.17 (t, J=8.9 Hz, 2H), 5.14 (d, J=3 Hz, 1H), 3.56 (s, 3H) MS m/z 251 [M+H]+

reactant | 4-fluorobenzaldehyde | 18.6 mmol, 2.00 mL, 1 equiv | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methyl 3,3-dimethoxypropionate | 18.6 mmol, 2.49 mL, 1 equiv | COC(CC(=O)OC)OC | C6H12O4
reactant | urea | 28.0 mmol, 1.68 g, 1.5 equiv | NC(=O)N | CH4N2O
reactant | acetic acid | 1.86 mmol, 0.110 mL, 0.1 equiv | C(C)(=O)O | C2H4O2
reactant | BF3.OEt2 | 24.2 mmol, 3.07 mL, 1.3 equiv | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
catalyst | copper (I) chloride | 1.86 mmol, 184 mg, 0.1 equiv | [Cu]Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 18.6 mL | C1CCOC1 | C4H8O
product | methyl 4-(4-fluorophenyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | 535 mg, 11% | FC1=CC=C(C=C1)C1NC(NC=C1C(=O)OC)=O | C12H11FN2O3
